US08748626B2
To a solution of 2-((2S)-4-(1-(5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)-2,2-dimethylpropylamino)-1-fluorobutan-2-yl)isoindoline-1,3-dione (65 mg, 0.125 mmol) in dichloromethane (1 mL, 0.1 M solution) at room temperature was added DIEA (65.3 μL, 0.375 mmol). (S)-1-Chloro-1-oxopropan-2-yl acetate (35 μL, 0.276 mmol) was then added dropwise over 2 min. The resulting solution was stirred at room temperature for 1.5 h. The reaction mixture was quenched with saturated NaHCO3 solution and extracted with EtOAc. The organic layer was dried over anhydrous sodium sulfate and filtered. After the volatile organic materials were removed in vacuo, the crude diastereomers were purified by preparative reverse phase HPLC. The combined fractions of each diastereomer were neutralized with saturated NaHCO3 solution, which was then extracted with EtOAc. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The nonpolar diastereomer, (R)-1-(((R)-1-(5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)-2,2-dimethylpropyl)((S)-3-(1,3-dioxoisoindolin-2-yl)-4-fluorobutyl)amino)-1-oxopropan-2-yl acetate, was obtained in 23% (10 mg). LC/MS (uplc) MH+ 706.2, 1.37 min. The polar isomer, (R)-1-(((S)-1-(5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)-2,2-dimethylpropyl)((S)-3-(1,3-dioxoisoindolin-2-yl)-4-fluorobutyl)amino)-1-oxopropan-2-yl acetate, was obtained in 12% (5 mg). LC/MS (uplc) MH+ 706.2, 1.36 min.

reactant | 2-((2S)-4-(1-(5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)-2,2-dimethylpropylamino)-1-fluorobutan-2-yl)isoindoline-1,3-dione | 0.125 mmol, 65 mg | C(C1=CC=CC=C1)C1=C(N=C(S1)C1=C(C=CC(=C1)F)F)C(C(C)(C)C)NCC[C@@H](CF)N1C(C2=CC=CC=C2C1=O)=O | C33H32F3N3O2S
reactant | DIEA | 0.375 mmol, 65.3 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-1-Chloro-1-oxopropan-2-yl acetate | 0.276 mmol, 35 μL | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
solvent | dichloromethane | 0.1 M, 1 mL | ClCCl | CH2Cl2
product | (R)-1-(((R)-1-(5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)-2,2-dimethylpropyl)((S)-3-(1,3-dioxoisoindolin-2-yl)-4-fluorobutyl)amino)-1-oxopropan-2-yl acetate | C(C)(=O)O[C@@H](C(=O)N(CC[C@@H](CF)N1C(C2=CC=CC=C2C1=O)=O)[C@H](C(C)(C)C)C=1N=C(SC1CC1=CC=CC=C1)C1=C(C=CC(=C1)F)F)C | C38H38F3N3O5S
